US05308854
Step B: Preparation of 2-methoxy-3-nitro-5-ethyl-6-methylpyridine
Sodium metal (100 mg, 4.3 mmol) was dissolved in methanol (5 mL) under a nitrogen atmosphere. A solution of 2-chloro-3-nitro-5-ethyl-6-methylpyridine (677 mg, 3.37 mmol) in methanol (5 mL) was added dropwise. The reaction was warmed at 50° C. for four hours. The reaction was cooled, diluted with diethyl ether, the ether layer washed with water, dried (Na2SO4), filtered through a pad of charcoal and evaporated to yield 535 mg (80%) of product.

reactant | Sodium | 4.3 mmol, 100 mg | [Na] | Na
reactant | 2-chloro-3-nitro-5-ethyl-6-methylpyridine | 3.37 mmol, 677 mg | ClC1=NC(=C(C=C1[N+](=O)[O-])CC)C | C8H9ClN2O2
reactant | methanol | 5 mL | CO | CH4O
reactant | methanol | 5 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-methoxy-3-nitro-5-ethyl-6-methylpyridine | 535 mg, 80% | COC1=NC(=C(C=C1[N+](=O)[O-])CC)C | C9H12N2O3
